** sch_path: /home/dt/Documents/madvlsi/final/LDS/daccell_LDS.sch
.subckt daccell_LDS Iprime GND Iin Vgate D Isense Idump VDD
*.PININFO GND:B Isense:O Idump:O Iin:I Iprime:O Vgate:I D:I VDD:B
XM2 net2 D Isense GND sky130_fd_pr__nfet_01v8 L=0.5 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
X1 Vgate D net1 GND VDD inverter
XM1 net2 net1 Idump GND sky130_fd_pr__nfet_01v8 L=0.5 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 Iin Vgate net2 GND sky130_fd_pr__nfet_01v8 L=0.5 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 Iin Vgate Iprime GND sky130_fd_pr__nfet_01v8 L=0.5 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends

* expanding   symbol:  inverter.sym # of pins=5
** sym_path: /home/dt/Documents/madvlsi/final/LDS/inverter.sym
** sch_path: /home/dt/Documents/madvlsi/final/LDS/inverter.sch
.subckt inverter VP A Y GND VDD
*.PININFO A:I VP:B GND:B Y:O VDD:B
XM1 Y A VP VDD sky130_fd_pr__pfet_01v8 L=0.5 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 Y A GND GND sky130_fd_pr__nfet_01v8 L=0.5 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends

