* SPICE3 file created from gate_driver.ext - technology: sky130A

.subckt transmission_gate Dn Dnbar Vgate Vout GND VDD
X0 Vout Dn Vgate GND sky130_fd_pr__nfet_01v8 ad=2.1 pd=7.4 as=2.1 ps=7.4 w=3 l=0.5
X1 Vout Dnbar Vgate VDD sky130_fd_pr__pfet_01v8 ad=2.1 pd=7.4 as=2.1 ps=7.4 w=3 l=0.5
.ends

.subckt gate_driver GND VDD Vgate Dn Dnbar Vout
Xtransmission_gate_0 Dn Dnbar Vgate Vout GND VDD transmission_gate
X0 GND Dnbar Vout GND sky130_fd_pr__nfet_01v8 ad=2.1 pd=7.4 as=2.1 ps=7.4 w=3 l=0.5
.ends

