** sch_path: /home/dt/Documents/madvlsi/final/schematics/IV_converter_tb.sch
**.subckt IV_converter_tb
XM1 GND net1 Vout VDD sky130_fd_pr__pfet_01v8 L={len} W={wid} nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 net1 net1 Vmid Vmid sky130_fd_pr__pfet_01v8 L={len} W={wid} nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
Vdd VDD GND 1.8
Iin net2 net3 pwl(0 0 20u 20u)
I2 net4 Vbn 11.5u
XM5 Vbn Vbn GND GND sky130_fd_pr__nfet_01v8 L={len} W={wid} nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
Vmid Vmid GND 0
Vgate Vgate GND 0
XM3 net1 Vbn GND GND sky130_fd_pr__nfet_01v8 L={len} W={wid} nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 Vout Vgate Vmid GND sky130_fd_pr__nfet_01v8 L=4 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
VIin net3 Vout 0
.save i(viin)
**** begin user architecture code


.param wid=3 len=0.5
*.control
*  save all
*  tran 1n 10u
*  write IV_converter_tb.raw
*  quit
*.endc

.control
  set wr_vecnames
  set wr_singlescale

  let vgate_runs = 19
  let i = 1
  let vgate_sweep = 0
  dowhile i <= vgate_runs
    let vmid_runs = 19
    let j = 1
    let vmid_sweep = 0
    dowhile j <= vmid_runs
        alter vgate vgate_sweep
        alter vmid vmid_sweep
        save all
        dc iin 0 30u 0.1u
        wrdata ~/Documents/madvlsi/final/schematics/ivsweep/ivsweep{$&i}_{$&j}.txt v(vout) i(viin) v(vgate) v(vmid)
        reset
        let j = j + 1
        let vmid_sweep = vmid_sweep + 0.1
    end
    reset
    let i = i + 1
    let vgate_sweep = vgate_sweep + 0.1
  end
  quit
.endc


.lib /usr/local/share/pdk/sky130A/libs.tech/combined/sky130.lib.spice tt
**** end user architecture code
**.ends
.GLOBAL GND
.GLOBAL VDD
.end
